US03956374
Step A: 3-Phenyl-6-(o-methylphenyl)-5-hexen-2-one
Sodium hydride (11.76 g., 0.28 mole, oil dispersion) is suspended in glyme (400 ml.) and phenyl acetone (37.57 g., 0.28 mole) in glyme (50 ml.) is added dropwise with stirring. After complete addition, the mixture is heated to reflux for one hour. The mixture is cooled to room temperature and a solution of crude o-methylcinnamyl bromide (59.10 g., 0.28 mole) in glyme (50 ml.) is added dropwise. When addition is complete, the mixture is heated on a steam bath for 24 hours then allowed to cool. After filtration of inorganic salts and removal of solvent from filtrate, a dark viscous residue is obtained. Trituration of this residue with petroleum ether (30°-60°C., 100ml.) produces tan solid, yield 26.5 g., m.p. 72°-75°C.

reactant | Sodium hydride | 0.28 mole, 11.76 g | [H-].[Na+]
reactant | phenyl acetone | 0.28 mole, 37.57 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | o-methylcinnamyl bromide | 0.28 mole, 59.10 g | CC1=C(C=CCBr)C=CC=C1 | C10H11Br
solvent | glyme | 400 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
product | 3-Phenyl-6-(o-methylphenyl)-5-hexen-2-one | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=C(C=CC=C1)C | C19H20O
